US07951963B2
To toluene (50 mL) suspension of 50.0 g of 2-(1-benzothiophen-5-yl)ethanol was added 2.35 g of 40% (w/w) benzyltrimethylammonium hydroxide aqueous solution, and dropwise added 17.9 g of acrylonitrile at 8 to 15° C., which was then stirred at 10 to 20° C. for 1.5 hours. To this reaction mixture were added 1.25 mL of hydrochloric acid, 100 mL of propanol and 5.05 g of water. Thereto was dropwise added 55.0 g of sulfuric acid, which was then refluxed for 6 hours. After cooling, to the reaction mixture was added 100 mL of water. The organic layer was separated. Thereto was added 50 mL of methanol and dropwise added water (50 mL) solution of 31.5 g of potassium hydroxide, which was then stirred at room temperature for 1.5 hours. To this reaction mixture were added 75 mL of toluene and 75 mL of water. The aqueous layer was separated, thereto was added 100 mL of toluene, the pH was adjusted to 0.9 with 6 mol/L hydrochloric acid, and the organic layer was separated. After the solvent was distilled off under reduced pressure, thereto were added 50 mL of toluene and 125 mL of cyclohexane. The precipitate was collected by filtration to provide 59.6 g of 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid as white solid form.

reactant | 2-(1-benzothiophen-5-yl)ethanol | 50.0 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acrylonitrile | 17.9 g | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 1.25 mL | Cl | ClH
reactant | sulfuric acid | 55.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 mL | O | H2O
reactant | water | 5.05 g | O | H2O
solvent | propanol | 100 mL | C(CC)O | C3H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid | 59.6 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
